US07183276B2
A mixture of ethyl(2E)-3-[2-(1H-benzimidazol-1-yl)-4-isopropyl-5-thiazolyl]propenoate (1.00 g), 2N aqueous sodium hydroxide solution (5 mL), tetrahydrofuran (5 mL), ethanol (5 mL) was stirred at room temperature for 1 hr. The reaction mixture was poured into dilute hydrochloric acid and the precipitated solid was collected by filtration, washed with water and dried to give (2E)-3-[2-(1H-benzimidazol-1-yl)-4-isopropyl-5-thiazolyl]propenoic acid (0.90 g, 98%) as crystals. Recrystallization from acetone-hexane gave pale-yellow prism crystals. melting point: 262–264° C.

reactant | ethyl(2E)-3-[2-(1H-benzimidazol-1-yl)-4-isopropyl-5-thiazolyl]propenoate | 1.00 g | N1(C=NC2=C1C=CC=C2)C=2SC(=C(N2)C(C)C)/C=C/C(=O)OCC | C18H19N3O2S
reactant | sodium hydroxide | 2N, 5 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (2E)-3-[2-(1H-benzimidazol-1-yl)-4-isopropyl-5-thiazolyl]propenoic acid | 0.90 g, 98% | N1(C=NC2=C1C=CC=C2)C=2SC(=C(N2)C(C)C)/C=C/C(=O)O | C16H15N3O2S
